US06784167B2
To a solution of 2-fluoro-iodobenzene (267 g, 1.2 mol) in Et3N (6L) was added propargyl alcohol (140 g, 2.5 mol, 2 equiv), followed by PdCl2(dppf) (6.1 g, 8.8 mmol, 0.007 equiv), Ph3P (12.5 g, 47.6 mmol, 0.038 equiv) and copper(I) iodide (12.6 g, 66.3 mmol, 0.053 equiv). The resulting mixture was heated at the reflux temperature for 17 h, allowed to cool to room temperature and filtered through a pad of Celite®. The filtrate was concentrated under reduced pressure and purified by vacuum distillation to give 3-(2-fluorophenyl)prop-2-yn-1-ol (156.6 g, 87%) as a deep brown oil: bp 84° C./0.3 mmHg; TLC (CH2Cl2) Rf 0.44; 1H NMR (CDCl3) δ 2.46 (d, J=5.0 Hz, 1H), 4.45 (d, J=5.0 Hz, 1H), 6.94-7.02 (m, 2H), 7.17-7.23 (m, 1H), 7.31-7.37 (m, 1H); GCMS m/z (rel abundance) 151 (MH+, 75%).

reactant | 2-fluoro-iodobenzene | 1.2 mol, 267 g | FC1=C(C=CC=C1)I | C6H4FI
reactant | propargyl alcohol | 2.5 mol, 140 g, 2 equiv | C(C#C)O | C3H4O
solvent | Et3N | CCN(CC)CC | C6H15N
catalyst | PdCl2(dppf) | 8.8 mmol, 6.1 g, 0.007 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | copper(I) iodide | 66.3 mmol, 12.6 g, 0.053 equiv | [Cu]I
catalyst | Ph3P | 47.6 mmol, 12.5 g, 0.038 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | 3-(2-fluorophenyl)prop-2-yn-1-ol | 156.6 g, 87% | FC1=C(C=CC=C1)C#CCO | C9H7FO
